US09107916B2
A. 4-bromo-2-ethylbenzoic acid
To a yellow solution of 2,2,6,6-TMPH (8.30 g, 58.88 mmol) in THF (9 mL) was added n-BuLi (25 mL) slowly at −78° C. under protection of nitrogen. Thereto, the mixture was warmed up to room temperature, stirred at this temperature for an hour, and then cooled to −78° C. again. A solution of 4-bromo-2-methylbenzoic acid (6.0 g, 28.04 mmol) in THF (60 mL) was added slowly, kept stirring at this temperature for an hour, added MeI (7.96 g, 56.07 mmol) solution (in 35 mL THF), the mixture above was then stirred overnight at room temperature. LCMS showed the reaction was completed. Water was added, the mixture was then washed with ethyl acetate. The aqueous phase was acidified to pH=1, extracted with ethyl acetate twice, and concentrated the organic phase to a residue which was trituated with PE/EA=1/1 to give 4.28 g of the title compound (67%).

reactant | n-BuLi | 25 mL | [Li]CCCC
reactant | 4-bromo-2-methylbenzoic acid | 28.04 mmol, 6.0 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | MeI | 56.07 mmol, 7.96 g | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-ethylbenzoic acid | 4.28 g, 67% | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
